US07795262B2
Step 2. Preparation of 7-methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine
To a solution of 7-methoxy-3-(toluene-4-sulfonyl)-2,3,4,5-tetrahydro-1H-benzo-[d]azepine (6.62 g, 20 mmol) in anhydrous THF (150 ml) is added a solution of LiAlH4 in THF (1.0 M, 40 ml, 2.0 eq.). The resulting mixture is refluxed under N2 for 24 hr. To the solution at 0° C. is added water (1.52 g) very carefully with stirring, followed by the addition of sodium hydroxide solution (10.0 N, 1.52 ml) and then water (3.04 g). The mixture is stirred at rt for an additional 1 hr, then diluted with EtOAc (300 ml), and dried with magnesium sulfate (40.0 g). After filtration, and washing the filtering cake with EtOAc (100 ml×3), the combined organic phase is evaporated to dryness under reduced pressure to give the title compound. MS (+VE) m/z 178.1 (M++1).

reactant | 7-methoxy-3-(toluene-4-sulfonyl)-2,3,4,5-tetrahydro-1H-benzo-[d]azepine | 20 mmol, 6.62 g | COC1=CC2=C(CCN(CC2)S(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C18H21NO3S
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 1.52 g | O | H2O
reactant | sodium hydroxide | 10.0 N, 1.52 ml | [OH-].[Na+]
reactant | water | 3.04 g | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 300 ml | CCOC(=O)C | C4H8O2
solvent | THF | 1.0 M, 40 ml, 2.0 eq. | C1CCOC1 | C4H8O
product | 7-methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | COC1=CC2=C(CCNCC2)C=C1 | C11H15NO
